US09278983B2
A mixture of 3-methyl-6-trifluoromethyl-2-(2-trifluoromethylsulfanylphenyl)-3H-imidazo[4,5-b]pyridine (0.25 g) and acetic acid (7 ml) was heated to 80° C., and 30% of an aqueous solution of hydrogen peroxide (3 ml) was added dropwise thereto. The mixture was heated to 100° C., and then stirred with heating for 5 hours. Into the reaction mixture cooled to room temperature, water was poured, and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 76 mg of 3-methyl-6-trifluoromethyl-2-(2-trifluoromethylsulfonylphenyl)-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 20).

reactant | 3-methyl-6-trifluoromethyl-2-(2-trifluoromethylsulfanylphenyl)-3H-imidazo[4,5-b]pyridine | 0.25 g | CN1C(=NC=2C1=NC=C(C2)C(F)(F)F)C2=C(C=CC=C2)SC(F)(F)F | C15H9F6N3S
reactant | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 3 ml | OO | H2O2
reactant | water | O | H2O
product | 3-methyl-6-trifluoromethyl-2-(2-trifluoromethylsulfonylphenyl)-3H-imidazo[4,5-b]pyridine | 76 mg | CN1C(=NC=2C1=NC=C(C2)C(F)(F)F)C2=C(C=CC=C2)S(=O)(=O)C(F)(F)F | C15H9F6N3O2S
